US05811428
5-CHLORO-6-METHYL-2-PYRAZINECARBOXYLIC ACID
A mixture of methyl 5-chloro-6-methyl-2-pyrazine carboxylate (0.16 g, 0.86 mmol), K2CO3 (0.31 g, 2.18 mmol) and H2O was stirred for 2 h at room temperature. The reaction was filtered and acidified (20% HCl), and the resulting solid collected to provide the title compound (0.057 g, 39% yield); m.p. 116°-117° C.

reactant | methyl 5-chloro-6-methyl-2-pyrazine carboxylate | 0.86 mmol, 0.16 g | ClC=1N=CC(=NC1C)C(=O)OC | C7H7ClN2O2
reactant | K2CO3 | 2.18 mmol, 0.31 g | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | O | H2O
product | 5-CHLORO-6-METHYL-2-PYRAZINECARBOXYLIC ACID | 0.057 g, 39% yield | ClC=1N=CC(=NC1C)C(=O)O | C6H5ClN2O2
